US07439264B2
2-Bromoethyl pent-4-enoate
4-Pentenoyl chloride (2.8 mL, 25.4 mmol) was dissolved in anhydrous methylene chloride (50 mL) and cooled to 0° C. under nitrogen. 2-Bromoethanol (2.0 mL, 28.2 mmol) and triethylamine (3.8 mL, 27.3 mmol) was added to the reaction solution resulting in a thick yellow slurry. The reaction solution was stirred for 19.5 h while slowly warming to 22° C. The reaction mixture was diluted to 100 mL with methylene chloride and extracted with 75 mL of each of the following: water, sat. ammonium chloride, and sat. sodium bicarbonate. The organic phase was dried (MgSO4), filtered and condensed in vacuo to yield a yellow oil (5.2 g cu. 100%) which was used as is for the next step. 1H NMR δ 5.90-5.65 (m, I H), 5.15-4.90 (m, 2H), 4.39 (t, 2H, J=6.0), 3.48 (t, 2H, J=6.0), 2.50-2.30 (m, 4H).

reactant | 4-Pentenoyl chloride | 25.4 mmol, 2.8 mL | C(CCC=C)(=O)Cl | C5H7ClO
reactant | 2-Bromoethanol | 28.2 mmol, 2.0 mL | BrCCO | C2H5BrO
reactant | triethylamine | 27.3 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromoethyl pent-4-enoate | C(CCC=C)(=O)OCCBr | C7H11BrO2
